US07393852B2
2-[5,5-Dimethyl-3-oxo-1-(2,4,6-trimethyl-benzenesulfonyl)-piperazin-2(R,S)-yl]-N-indan-1-yl-acetamide
[5,5-Dimethyl-3-oxo-1-(2,4,6-trimethyl-benzenesulfonyl)-piperazin-2(R,S)yl]-acetic acid (50 mg, 0.135 mmol) was dissolved in DMF (2.5 mL) and DIEA (0.1 mL) was added to make a solution. HATU (117 mg, 0.31 mmol) was added and after stirring for two min, (R)-(−)-indanamine (0.1 mL) was added and the mixture was stirred overnight. The solution was poured into EtOAc (50 mL), washed with saturated NH4Cl (1×50 mL), 1 N HCl (1×50 mL), saturated NaHCO3 (1×50 mL), and saturated brine (1×50 mL). The organic layer was dried with Na2SO4, filtered, and concentrated in vacuo to provide a crude brown oil (140 mg). This crude oil was purified by SiO2 column chromatography (40 to 100% EtOAc in hexanes) to produce pure title compound. MS (APCI pos) 484 (M+H).

reactant | [5,5-Dimethyl-3-oxo-1-(2,4,6-trimethyl-benzenesulfonyl)-piperazin-2(R,S)yl]-acetic acid | 0.135 mmol, 50 mg | CC1(NC(C(N(C1)S(=O)(=O)C1=C(C=C(C=C1C)C)C)CC(=O)O)=O)C | C17H24N2O5S
reactant | DIEA | 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.31 mmol, 117 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (R)-(−)-indanamine | 0.1 mL | [C@H]1(CCC2=CC=CC=C12)N | C9H11N
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 2-[5,5-Dimethyl-3-oxo-1-(2,4,6-trimethyl-benzenesulfonyl)-piperazin-2(R,S)-yl]-N-indan-1-yl-acetamide | CC1(NC(C(N(C1)S(=O)(=O)C1=C(C=C(C=C1C)C)C)CC(=O)NC1CCC2=CC=CC=C12)=O)C | C26H33N3O4S
